US09382265B2
(b) (3R,3 aS)-3-(hydroxymethyl)-7-(2-oxopiperidin-1-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one
Using compound (3R,3aS)-3-(((t-butyldimethylsilyl)oxy)methyl)-7-(2-oxopiperidin-1-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1(3H)-one (1.016 g, 2.352 mmol), and tetra-n-butylammonium fluoride (1M, 4.7 ml) as starting materials, preparation following the method as described in Example 1(b) afforded 0.642 g white solid, yield 85.8%.

reactant | (3R,3aS)-3-(((t-butyldimethylsilyl)oxy)methyl)-7-(2-oxopiperidin-1-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1(3H)-one | 2.352 mmol, 1.016 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(CCCC3)=O)=O | C22H32N2O5Si
reactant | tetra-n-butylammonium fluoride | 1M, 4.7 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3R,3 aS)-3-(hydroxymethyl)-7-(2-oxopiperidin-1-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one | 0.642 g, yield 85.8% | OC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(CCCC3)=O)=O | C16H18N2O5
